US08227500B2
4-Thiophene-2-yl-1H-pyrazole-3-carbonitrile
After a solution of trimethylsilyldiazomethane in hexane (0.6 mol/L, 5 mL) was added to tetrahydrofuran (20 mL) under an argon atmosphere, to this reaction mixture was added a solution of n-butyl lithium in hexane (2.6 mol/L, 1.08 mL) in a dropwise manner over 5 minutes at −78° C., and this mixture was stirred at same temperature for 20 minutes. And then to this reaction mixture was added a solution of 2-thiophene-2-ylmethylene malononitrile (0.32 g) in tetrahydrofuran (5 mL) in a dropwise manner over 20 minutes. To this reaction mixture was added saturated aqueous ammonium chloride solution, and this mixture was extracted with ethyl acetate. This organic layer was washed with brine, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under reduced pressure. This residue was washed with hexane to give 4-thiophene-2-yl-5-trimethylsilanyl-1H-pyrazole-3-carbonitrile (0.496 g). To the 4-thiophene-2-yl-5-trimethylsilanyl-1H-pyrazole-3-carbonitrile were added methanol (20 mL) and 1.0 mol/L aqueous sodium hydroxide solution (20 mL), and this mixture was heated to reflux for 2 hours. This reaction mixture was acidified (pH1) with adding 1.0 mol/L hydrochloric acid, the precipitated solid was collected by filtration. This obtained solid was washed with water, dried under reduced pressure at 50° C. to give the title compound (0.154 g).

reactant | 4-thiophene-2-yl-5-trimethylsilanyl-1H-pyrazole-3-carbonitrile | S1C(=CC=C1)C=1C(=NNC1[Si](C)(C)C)C#N | C11H13N3SSi
reactant | sodium hydroxide | 1.0 mol/L, 20 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1.0 mol/L | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 4-Thiophene-2-yl-1H-pyrazole-3-carbonitrile | 0.154 g | S1C(=CC=C1)C=1C(=NNC1)C#N | C8H5N3S
